US05856314
VIII. Synthesis of [5-acetylthio-2-(3-pyridinyl)pentylidene]bis [phosphonic acid] diethyl ester
A solution of [5-bromo-2-(3-pyridinyl)pentylidene]bis [phosphonic acid] diethyl ester (5.0 mmol) is stirred in dry acetone (35 ml) and sodium thioacetate (5.2 mmol) is added. The mixture is stirred at 50° C. for 12 hours. After cooling to room temperature the solvent is removed under reduced pressure. The crude residue is dissolved in methylene chloride and washed with water. The organic layer is then dried and concentrated under reduced pressure. The desired product is purified by flash chromatography using a 5-10% isopropanol in methylene chloride gradient on silica gel.

reactant | [5-bromo-2-(3-pyridinyl)pentylidene]bis [phosphonic acid] diethyl ester | 5.0 mmol | C(C)OP(OCC)(=O)C(C(CCCBr)C=1C=NC=CC1)P(O)(O)=O | C14H24BrNO6P2
reactant | sodium thioacetate | 5.2 mmol | C(C)(=S)[O-].[Na+]
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | [5-acetylthio-2-(3-pyridinyl)pentylidene]bis [phosphonic acid] diethyl ester | C(C)OP(OCC)(=O)C(C(CCCSC(C)=O)C=1C=NC=CC1)P(O)(O)=O | C16H27NO7P2S
